US07897619B2
6-Vinylisoquinoline:
In a 250 mL round bottom flask, 6-bromoisoquinoline (5 g, 24 mmol) (commercially available from Kalexsyn Product List Order Number 2003-005) was dissolved in dioxane (50 ml). Vinyltributylstannane (9 mL, 29 mmol) was added and the solution was degassed with nitrogen for 10 minutes. Tetrakis(triphenylphosphine)palladium (3 g, 2 mmol) was added in one portion. The reaction mixture was stirred for 3 hours at 100° C. The reaction mixture was adsorbed onto silica gel, and purified by flash chromatography (5-30%, EtOAc in hexane) to provide the product (3.0 g, 80%). LCMS (API-ES) m/z (%): 156 (M+H+).

reactant | 6-bromoisoquinoline | 24 mmol, 5 g | BrC=1C=C2C=CN=CC2=CC1 | C9H6BrN
reactant | Vinyltributylstannane | 29 mmol, 9 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium | 2 mmol, 3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-Vinylisoquinoline | 3.0 g, 80% | C(=C)C=1C=C2C=CN=CC2=CC1 | C11H9N
